US07612108B2
Methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate and N-chlorosuccinimide were stirred at room temperature in acetonitrile to obtain methyl 4-chloro-5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate. ESN: 292.

reactant | Methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate | C(#N)C=1C=C(C=CC1O)C1=CC=C(S1)C(=O)OC | C13H9NO3S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 4-chloro-5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate | ClC=1C=C(SC1C1=CC(=C(C=C1)O)C#N)C(=O)OC | C13H8ClNO3S
